Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Claritin-D 12 Hour
 
Attending: ___.
 
Chief Complaint:
Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo gentleman
with PMHx significant for multiple myeloma (originally diagnosed
in ___ with paraspinal disease at the time treated w/ XRT) who
presents to ___ ED with 5 day history of worsening neck pain
which was worked-up with XR and MRI which showed a lesion at T1
and thus patient told to come into ___ for further care. 
Denies
any numbness, tingling (aside from baseline foot neuropathy from
chemo), weakness, saddle anesthesia, urinary/bowel incontinence.
He denies any recent fevers, chills, nausea, vomiting diarrhea.  

 In the ED, labs showed stable anemia. He recently had SPEP that
showed slight increase in K/L ratio and total IgG and IgA. He 
was
seen by spine who recommended CT evaluation of the spine. There
was no concern for cord compression at this time.  
 He is admitted to the floor for pain control, CT, and 
discussion
of spine XRT.  

 
Past Medical History:
PMH: HTN, prostate ca s/p radiation seeds ___, relapsing 
polychondritis, eczema, retinal nevus, PE ___ on lovenox, 
multiple myeloma, depression, GERD  
PSH:  
- Laparoscopic cholecystectomy ___  
- Left inguinal hernia repair ___  
- Transperineal prostate radiotherapy seed implantation 
brachytherapy ___  
- Appendectomy  

 
Social History:
___
Family History:
Mother had hypertension, died at age of ___;
father had stomach cancer, died at age ___. One sister had colon
cancer with brain cancer. She passed away at the age of ___. The
other sister had possible lymphoma. She died at age ___.
  
 
Physical Exam:
 ADMISSION PHYSICAL EXAM:  
 VS: 98.1  120/60  54  18 91%RA 
 GENERAL: NAD  
 HEENT: anicteric  
 CARDIAC: RRR  
 LUNG: Clear  
 ABD: soft, NT, ND  
 EXT: no edema  
 PULSES: 2+  
 NEURO: mild tenderness along lower cervical spine, no step off,
limited neck ROM, has pain w/ lateral deviation of neck both
sides, sensation intact to light touch, strength ___, gait
normal. ___, EOMI, face symmetric, no nystagmus. 
 SKIN: xerosis  

No discharge PE left AMA
 
Pertinent Results:
___ 08:45PM BLOOD WBC-4.4 RBC-2.87* Hgb-9.9* Hct-30.8* 
MCV-107* MCH-34.5* MCHC-32.1 RDW-14.5 RDWSD-56.9* Plt ___
___ 08:45PM BLOOD Neuts-65.0 Lymphs-12.9* Monos-17.9* 
Eos-3.2 Baso-0.5 Im ___ AbsNeut-2.87 AbsLymp-0.57* 
AbsMono-0.79 AbsEos-0.14 AbsBaso-0.02
___ 08:45PM BLOOD Glucose-110* UreaN-22* Creat-1.2 Na-138 
K-4.0 Cl-100 HCO3-29 AnGap-13
___ 08:45PM BLOOD ALT-13 AST-14 LD(LDH)-255* AlkPhos-46 
TotBili-0.7
___ 08:45PM BLOOD TotProt-5.7* Albumin-4.0 Globuln-1.7* 
Calcium-9.0 Phos-4.1 Mg-1.8
 
Brief Hospital Course:
Per Moonlighter note: Mr. ___ and his son expressed that they 
wish to leave AMA so
that Mr. ___ doesn't have to spend the night in the hospital.
I explained that he has new lesions in his T1 vertebrae and
clivus which have not been fully evaluated by orthopedics,
radiology and radiation oncology and I recommended that he stay
in the hospital tonight. They understood the risks of leaving
against medical advice, including but not limited to 
neurological
or vascular damage from the untreated spine lesions. Discussed
with ___ attending Dr. ___.

At the time of AMA discharge, he was recommended to wear a soft
neck collar at all times and should call the ___ clinic
___ AM for appropriate follow-up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexamethasone 10 mg PO 1X/WEEK (___) 
2. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN rash 
3. Dapsone 100 mg PO DAILY 
4. Lenalidomide 10 mg PO DAILY 
5. Atenolol 50 mg PO DAILY 
6. amLODIPine 5 mg PO DAILY 
7. Acyclovir 400 mg PO Q8H 
8. Omeprazole 20 mg PO DAILY:PRN GERD 
9. Aspirin 81 mg PO DAILY 
10. budesonide 180 mcg/actuation inhalation BID:PRN cough 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. amLODIPine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atenolol 50 mg PO DAILY 
5. Dapsone 100 mg PO DAILY 
6. Dexamethasone 10 mg PO 1X/WEEK (___) 
7. Budesonide 180 mcg/actuation INHALATION BID:PRN cough 
8. Lenalidomide 10 mg PO DAILY 
9. Omeprazole 20 mg PO DAILY:PRN GERD 
10. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN rash 

11. Lenalidomide 10 mg PO DAILY Duration: 21 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
T1 lytic lesion
Clival lytic lesion
Multiple myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, it was a pleasure caring for you during your 
stay at ___.  You were admitted with neck stiffness and were 
found to have a new lesion on your T1 vertebrae and the base of 
the skull. You had a MRI of the neck and spine which has not 
been read and the orthopedic consultants have not been able to 
evaluate. You have chosen to leave against medical advice.

Please call the ___ clinic ___ morning to arrange for 
follow-up. You should wear a soft neck collar at all times.
 
Followup Instructions:
___